US07432378B2
4-[2-(4-Formyl-3-methyl-phenoxy)-ethoxy]-1-methyl-piperidinium toluene-4-sulfonate. To a solution of 1,4-dioxa-8-aza-spiro[4.5]decane (1.0 g, 7.0 mmol, 1.0 equiv) in toluene (20 mL) at 0° C. was added 1.0 M diisobutylaluminum hydride in hexane (20 mL, 20 mmol, 2.9 equiv). The solution was warmed to 80° C. and stirred for 12 h. Methanol (20 mL), satd. aq. sodium potassiuim tartrate (20 mL), and 10% 2-propanol in chloroform (100 mL) were added and the mixture was stirred for 30 min. The chloroform layer was separated and the aqueous mixture was extracted five times with 10% 2-propanol in chloroform (25 mL). The combined extracts were dried (Na2SO4), filtered, and concentrated to provide crude 2-(piperidin-4-yloxy)-ethanol as a white solid. The solid was dissolved in dichloroethane (20 mL) and 37% aq. formaldehyde (0.60 mL, 6.9 mmol) was added. After stirring for 30 min, sodium triacetoxyborohydride (2.04 g, 9.6 mmol) was added and the mixture was stirred for 1.5 h. The reaction mixture was diluted with satd. aq. NaHCO3 (20 mL) and extracted six times with 10% 2-propanol in chloroform (80 mL). The combined extracts were dried (Na2SO4), filtered, and concentrated to give 2-(1-methyl-piperidin-4-yloxy)-ethanol. The residue was dissolved in dichloromethane, cooled to 0° C., and pyridine (463 μL, 5.7 mmol) and p-toluenesulfonyl chloride (1.1 g, 5.7 mmol) were added. The solution was warmed to rt and stirred for 16 h. The reaction mixture was concentrated under reduced pressure and the residue was partially purified by Method 2. The resulting material, toluene-4-sulfonic acid 2-(1-methyl-piperidin-4-yloxy)-ethyl ester, was added to a mixture of 4-hydroxy-2-methyl-benzaldehyde (275 mg, 2.0 mmol) and K2CO3 (699 mg, 5.1 mmol) in DMF. The mixture was heated to 100° C. and stirred for 16 h. After cooling to rt, the mixture was poured into water and extracted three times with ethyl acetate. The combined extracts were dried (Na2SO4), filtered, and concentrated. The crude product was purified by Method 2 to afford 409 mg of the title compound. 1H NMR (400 MHz, CD3OD): 10.10 (s, 1H), 7.80 (d, J=8.6 Hz, 1H), 7.72 (d, J=8.2 Hz, 2H), 7.26 (d, J=7.9 Hz, 2H), 6.96 (dd, J=8.6, 2.4 Hz, 1H), 6.88 (d, J=2.1 Hz, 1H), 4.27-4.22 (m, 2H), 3.90-3.85 (m, 2H), 3.75-3.65 (m, 1H), 3.19-3.07 (m, 2H), 3.03-2.86 (m, 2H), 2.67 (s, 3H), 2.65 (s, 3H), 2.39 (s, 3H), 2.07-1.83 (m, 4H).

reactant | 4-[2-(4-Formyl-3-methyl-phenoxy)-ethoxy]-1-methyl-piperidinium toluene-4-sulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C(=O)C1=C(C=C(OCCOC2CC[NH+](CC2)C)C=C1)C
reactant | 1,4-dioxa-8-aza-spiro[4.5]decane | 7.0 mmol, 1.0 g, 1.0 equiv | O1CCOC12CCNCC2 | C7H13NO2
reactant | diisobutylaluminum hydride | 1.0 M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hexane | 20 mmol, 20 mL, 2.9 equiv | CCCCCC | C6H14
reactant | sodium | 20 mL | [Na] | Na
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | 2-propanol | CC(C)O | C3H8O
solvent | Methanol | 20 mL | CO | CH4O
product | 2-(piperidin-4-yloxy)-ethanol | N1CCC(CC1)OCCO | C7H15NO2
